Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
dapsone
 
Attending: ___.
 
Chief Complaint:
fever, cough, headache
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
A ___ year old female with CVID,
history of follicular lymphoma transformed to DLBCL status post
autolgous SCT in ___ (in remission from lymphoma) but noted for
treatment related MDS status post 4 cycles of Decitabine (C4 D1 
=
___ with plans to move toward allogeneic transplant but
developed productive cough of clear sputum and wheezing for 2
days in ___ and was found to have RSV. She was then
treated with palvilizumab on ___ and ribavirin 600mg q 8h
from ___. She received IVIG 10 grams daily for 4
days from ___. She required a tooth extraction on
the lower left side on ___ due to persistent tooth pain.

Following recovery of her respiratory symptoms and dental 
issues,
Ms. ___ was admitted on ___ for her MUD allogeneic
transplant with Fludarabine, Busulfan and ATG conditioning. Her
allogeneic transplantation course was complicated by aseptic
menigitis, CMV viremia, S. epidermidis bacteremia, DVT's of 
lower
legs, and GVDH. 

She was last seen outpatient on ___. During this visit, 
she did not have any URI symptoms. She reported using her
inhalers as needed only. She noted some diarrhea and vomiting
which persisted for several days and then stopped. Overall, she
reported feeling well without sick contacts. 

Since the visit on ___, she reported that the several days 
(4
days ago), she was more fatigue, had mild sore throat, and had
exposure to sick contacts with URI symptoms. She noted increased
cough and wheezing but this improved somewhat with inhaler and 
so
she felt she was improving. However, on ___, she
started feeling unwell again. On ___, she visited a
local urgent care and was found to have a fever of 100.7. At 
this
point, she was coughing more with increased wheezing and 
fatigue.

In addition, she noticed a headache (somewhat typical of her
migraines) that wrapped around her head like a "C". The headache
started from the back of the head and progressed into the 
frontal
part of her head. She did not notice any visual disturbances,
lightheadedness, or dizziness. The headache appeared to be worse
with increased cough but was not associated with visual
disturbances, nausea, or vomiting. Her appetite has diminished
significantly - she did eat or drink adequately for almost the
past 48 hours. The provider at the urgent care advised her to
come to the ED and so she called the ___ fellow who directed her
to the ___ ED. 

In the ED, her initial vitals were: T 99-100.2, HR 104-103, BP
114-134/52-66, RR ___, SPO2 95-97% RA. Lung examination was
significant for loud audible cough, diffuse wheezing, and
crackles. Labs were remarkable for WBC 13.4, HGB 12.9, plt 229, 
Cr 1.3 and lactate 1.1. Flu negative. She was given albuterol
nebs, DuoNeb, and IVF. CXR showed RLL opacity c/f pneumonia. 
Given CXR findings, she was given cefepime IV and vancomycin IV. 

She was also noted to have increased 02 requirement (RA on
initial ED visit then became hypoxic, ___ via NC). This 
prompted
CTA CHEST  (given DVT hx) but fortunately, CT chest did not show
evidence of pulmonary embolism or aortic abnormality but did
reveal consolidation in nodular opacities with perihilar and
peripheral consolidation and surrounding ground glass which are
most severe in the right lower and upper lobe with additional
findings in the left lower lobe. 
 
On arrival to ___ unit, she reported that her cough and wheezing
is still profound. No sore throat, headache or night sweats. She
denies chills, rigors, abdominal pain, nausea, diarrhea, 
dysuria,
hematuria, leg swelling. No rash in her groin area but does have
multiple creams prescribed by dermatology due to various skin
rashes and GVHD. Erythema of right shin improved per patient
report - reported injury to RLE ~ 6 weeks ago that appears to
have no healed completely - no worsening erythema or
pain/discharge. Usual numbness of right toes following prior
surgery; has noted some increased sensations on the bottom of 
his
feet.  

 
Past Medical History:
TRANSPLANT DATA (PER OMR)
===================================
Transplant Date: ___
Graft: URD
Conditioning Intensity: Reduced-Intensity
Conditioning Regimen: Flu/Bu/ATG
Donor Info: ___ CMV(+), ABO: Opos
Recipient Info: CMV(+), ABO: Opos    

POST TRANSPLANT COURSE (PER OMR)
==================================== 
*D0 = ___. Had expected reactions to ATG with some fluid
overload issues and given diuresis with Lasix. Creatinine
increased slightly in this setting. No ongoing fevers. Required 
1
red cell transfusion and 2 platelet transfusions during her
admission. Has history of prior DVT's(has filter in place) and
anticoagulation was switched to Lovenox. Discharged on 
___.

*Doing well and was transitioned to home. She had periodic loose
stools, felt more related to medications and not GVHD.
 
___, presented to the emergency room with headache, 
fevers,
and vomiting and was admitted with concern for meningitis.
Treated initially with cefepime and acyclovir to cover both
bacterial meningitis and HSV meningitis. LP on ___ was
consistent with aseptic meningitis and no HSV was found in the
CSF; IV antibiotics discontinued. Extensive workup for VZV, EBV,
HSV, HHV6, adenovirus, arbovirus, TB, Anaplasma and serum
toxoplasmosis was negative. Symptoms improved over time. 

*Noted for CMV viremia and started IV ganciclovir on ___
which was transitioned to oral valganciclovir prior to 
discharge.
CMV VL has been negative since ___ and her Valganciclovir
was switched to maintenance dosing, and then discontinued
(switched back to Acyclovir).  

___ - ___, Admission with headache, nausea and vomiting
and development of fevers to 103 with coagulase-negative
gram-positive cocci in blood cultures noted as S. epidermidis
bacteremia. Headache resolved on own with MRI of head from ___
unremarkable. CMV, EBV, HSV, HHV6, adeno, ___, 
arboviruses,
Lyme, crypotococcus, and fungal markers were all negative. 
Treated with antibiotics which were narrowed to vancomycin with
noted S. epidermidis bacteremia. No other sources of infection
were noted. A TTE revealed normal biventricular cavity sizes 
with
mild global left ventricular hypokinesis, mild mitral
regurgitation with normal valve morphology and trace aortic
regurgitation with normal valve morphology. No TEE as it would
not change the course of therapy. Continued on Vancomycin until
___ and was transitioned to Daptomycin as Vancomycin 
levels
fluctuated frequently throughout her hospitalization. Complete 6
weeks of antibiotics therapy with Daptomycin until ___
with vanco locks in attempt to save her port. POC pulled on
___ and continued Daptomycin peripherally until PICC 
placed
on ___.  Daptomycin course completed on ___
as planned; PICC line removed.
  
*URI with prolonged cough in ___. + Enterovirus noted on
viral PCR testing. Symptoms slowly improved.
 
*Increased rash on face and torso; tried steroid creams.

___ - ___, admitted with diarrhea and worsening rash.
Diarrhea resolved without intervention. Started on increased
steroids with improvement in rash. Discharged on Prednisone 80 
mg
daily which is now being tapered, currently on 7.5 mg daily.

___, Rituxan for GVHD (muscle cramping) x 1 dose. Added
in CellCept to try and taper other medications.

___ - ___, Admitted with four days of productive cough,
fevers and chills consistent with community acquired pneumonia;
treated with antibiotics.

PAST ONCOLOGIC HISTORY (PER OMR)
==========================================
-Transformed DLBCL with a history of follicular lymphoma stage
IIA 
- ___ developed worsening musculoskeletal back pain, early
satiety, hypoalbuminemia and found to have mesenteric mass
- ?___ ex lap with 15 cm lobulated mass involving the
duodenum, retroperitoneum and celiac access.  Biopsies showed
Follicular lymphomas grade II/III.  Reportedly negative staging
Gallium scan. CD10+ BCL2+
- ___ completed 6 cycles CHOP, complications included
SVC/innominate thrombus (tPA)
- ___ CT showed persistent 7 x 3.5 x 9 cm oblong mass, bone
marrow at completion was negative for lymphomatous involvement.
- ___ PET-CT with very slight amount of increased tracer
activity within the posterior left supraclavicular region. No
other areas of FDG avid disease were noted 
- ___ through ___ per records she was treated with CVP
followed by course of single agent Rituxan
- ___ through ___ surveillance imaging with no evidence of
recurrent disease, stable mesenteric mass.
- ___ abdominal pain led to CT with no change in mass size,
increased conspicuity of nodular borders
- ___ PET-CT with L. hilar LN PET-avid to SUV 7.9, otherwise
stable mesenteric mass with low level SUV 2.2 stable since 
prior.
- ___ CT torso showed persistent mesenteric and left hilar
lymphadenopathy. Stable right middle lobe small focus of ground
glass opacity and adjacent subpleural fat hypertrophy, 
suggestive
of inflammatory process. Stable right adnexal cyst.  
- ___ Presented to PCP ___ ___iscomfort. 
Exam
revealed new adenopathy. Labs notable for LDH 341, WBC 10.1,
normal differential, PLT 452. 
- ___ PET CT revealed, "Large left cervical,
supraclavicular, mediastinal lymphadenopathy, and 
retroperitoneal
lymphadenopathy, and small mesenteric
lymphadenopathy, all markedly FDG-avid and concerning for
lymphoma." SUVmax 35.5.
- ___iopsy revealed diffuse large B cell
lymphoma, CD20+ CD10+ lambda restricted. MIB and cytogenetics 
are
pending
- ___ C1D1 ICE
- ___ C1 Rituximab, clinically improved adenopathy
- ___ C2 Rituximab, WBC 6.5, PLT 43
- ___ Admit for C2D1 ICE
- ___ C3 Rituximab
- ___ PET CT showed almost complete resolution of FDG avid
disease with a residual focus of avidity in the bed of the 
former
abdominal mass, SUV ___ C4 Rituximab
- ___ C4 ICE followed by stem cell mobilization and
collection, BMBx showed a nest of CLL unrelated to her 
aggressive
lymphoma
- ___ Presented with large DVTs, SVC filter placed
- ___ D0 of a BEAM autoSCT, course notable for mucositis
- ___ Switched to Rivaroxiban for AC
- ___ PET CT ___, PFTs with normal Hb adjusted DLCO
- ___ IVIg 400 mg/kg c/b fever, aseptic meningitis,
cytopenias
- ___ Started IFRT to paraaortic LNs, 3600 cGy total dose.
- ___, Norovirus
- ___ Presented with dyspnea, DLCO 79% predicted (adjusted
for Hb). Started prednisone 80 mg PO daily and adjusted with
DLCO. Finally d/ced ___. 
- IVIg 400 mg/kg, continues monthly for
Hypogammaglobuonemia/CVID.
- ___, CT torso with no evidence of active disease. Stable
appearance of a conglomeration of mesenteric lymph nodes. 
- ___, Right total knee replacement, complicated by foot
drop likely due to irritation of peroneal nerve from the CPM
machine, as well as a cellulitis of the right leg; same leg as
her previous DVT and her circulation is poor. 
- ___, CT Torso with no evidence of active disease. 
Stable appearance of conglomerate of mesenteric LN's. Increased
dilatation of the main pulmonary artery suggests worsening
pulmonary arterial hypertension of indeterminate etiology.
- ___, CT torso with no evidence of active disease. Increased
dilation of pulmonary artery.  Evaluated by Dr. ___
- ___, Increasing right leg swelling and shortness of breath
with noted DVT; no DVT.  Xarelto increased back to 20 mg
daily(had been decreased given age and prior chronic DVT).  No
evidence for lymphoma on CT imaging.
- ___, noted drop in blood counts. Bone marrow biopsy showed
dysplasia in all cell lines with ~ 6% blasts noted in aspirate. 
Cytogenetics showing multiple abnormalities. 
- ___, C1 Dacogen
- ___, admitted with fever in setting of neutropenia, and
increasing right sided back pain.  No infectious source found;
after consultation with ID, it was decided to treat empirically
for presumptive osteomyelitis/discitis with 6 weeks of 
vancomycin
(750mg IV q12h), cefepime (2g IV q12h), micafungin (100 mg PO
q24h). Required short time of pain medicines for back pain. 
- ___, C2 Dacogen
- ___, admitted with increased confusion and issues of
word finding.  Head CT and MRI of the head did not show any
abnormality.  Treated with concern for meningitis and remained 
on
her other antibiotics for treatment of presumed osteomyelitis. 
Confusion resolved and no infectious etiology was noted except
for possible UTI. 
- ___, Admitted with 2 days of nausea, vomiting, fever,
confusion, and urinary incontinence, with infectious workup,
overall negative, except for positive coronavirus.  CTA negative
for PE and there was no evidence of pulmonary or abdominal
infection on imaging. MRI of brain was negative for an
intracranial process; MRI spine was negative for abscess or
osteomyelitis. 
- ___, C3 Dacogen and discharged to home on ___.
- ___, Admitted with diarrhea, decreased appetite. 
Received IVF support, transfusions and potassium replacement;
discharged on ___. 
- ___, C4 Dacogen
- ___, Admitted with cough and wheezing.  + RSV, treated
with empiric antibiotics, palvilizumab, ribavirin and IVIG.
- ___, Bone marrow aspirate and biopsy showed a cellular
marrow by aspirate with trilineage dyspoitic maturation. By
immunohistochemistry CD34 highlights blast cells comprising less
than 5% of the overall cellularity. Cellularity in the core
biopsy is low, which may be a sampling artifact. Cytogenetics
revealed no cells noted with the previously observed complex
abnormal karyotype with monosomy 7, deletion of 5q and other
chromosome aberrations associated with myelodysplasia with an
unfavorable prognosis.
- ___, Admitted for MUD allogeneic transplant with Flu/Bu
and ATG conditioning. D0 = ___. 
- ___ - ___, admission for aseptic meningitis; noted CMV
viremia, on Valganciclovir.
- ___ - ___, admission for headache, nausea and vomiting
and development of fevers to 103 with coagulase-negative
gram-positive cocci noted as S. epidermidis bacteremia;
Daptomycin for total 6 week course of antibiotics(completed
___.  Also noted for new DVT's of lower legs, on Lovenox
BID. 
- ___, admission for increased rash and diarrhea. 
Started increased systemic steroids and now tapered.
- ___ - ___, Admitted with four days of productive cough,
fevers and chills consistent with community acquired pneumonia;
treated with antibiotics

OTHER PAST MEDICAL HISTORY (PER OMR)
===============================================
- CVID, receives IVIG every 1 - 2 months to keep IGG > 500
- GERD                                          
- Osteoarthritis                                         
- DVT, right lower extremity, IVC filter in place
- Cervical radiculopathy
- Sciatica
- Obstructive sleep apnea, wears CPAP
- H/O cerebral aneurism, noted on MRA with small R internal
carotid cavernous sinus aneurysm; coil placed in the aneurysm
(___). On Neurontin. Exam notable for slight CN 6 palsy of
the right eye, mild proptosis of the right eye, and hyperthesia
of the right V1 distribution
- Asthma, with episodic bronchitis/exacerbations
- Obesity
- Hypertension
- Migraines
- + RSV, ___
- S. epidermidis bacteremia, POC removed; completed course of
Daptomycin
- +Parainfluenza, ___

PAST SURGICAL HISTORY (PER OMR)
========================================
-aneurysm coil in ___ of Right ICA
-C5 fusion ___
-Cholecystectomy ___
-anterior scalenotomy
-Surgery for ruptured Meckels
-___ Excisional Bx L Cervical Lymph Node
-___ L total knee replacement ___, walks with cane
-___ R total Knee replacement 
-___ I&D Labial Abscess
-___ Excision Cyst R ___ Digit of Hand
-numerous laparoscopies.

 
Social History:
___
Family History:
Brother died at ___ from lymphoma. No other family history of
cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=============================
___ 1328 Temp: 98.4 PO BP: 115/77 HR: 91 RR: 16 O2 sat: 99%
O2 delivery: 3L NC 
GENERAL: Fatigue and chronically ill appearing. Moderate
respiratory distress, siting in bed. 
HEENT: Ptosis of right eye, Sclerae anicteric. Dry MM. No
lesions. No oropharyngeal erythema or thrush. Nasal cannula in
place.  
NECK: Supple. No cervical or supraclavicular lymphadenopathy
CV: RRR, NL S1/S2. No M/R/G
PULM: Labored. Bronchial breath sounds. Diffuse expiratory and
inspiratory wheezes and crackles with occasional rhonchi. Poor 
to
fair aeration.
ABD: Soft, protuberant with several well healed scars. NT. No 
HSM
appreciated. No peritoneal signs.
GU: No foley
EXT: Legs with non-pitting edema bilaterally. Calves and feet 
are
cool to the touch. RLE w/ 2.0cm (L) x 1.0 cm (W) wound noted on
admission - secondary to traumatic injury per patient report
SKIN: Venous stasis changes to bilateral calves 
NEURO: CN 6 palsy of the right eye since aneurism repair w/ mild
proptosis of the right eye and hyperthesia of the right V1
distribution. CN II-XII otherwise intact. Strength ___ in all
extremities. Sensation intact in all extremities.
ACCESS: PIV

DISCHARGE PHYSICAL EXAM:
VSS
GENERAL: No distress, sitting up in chair.
HEENT: Deviation of right eye which is baseline, Sclerae
anicteric. Dry MM. No lesions. No oropharyngeal erythema or
thrush. 
NECK: Supple. No cervical or supraclavicular lymphadenopathy
CV: RRR, NL S1/S2. No M/R/G
PULM: Bilateral coarse rhonchi, and exp wheeze. nonlabored
ABD: Soft, protuberant with several well healed scars. NT. No 
HSM
appreciated. 
EXT: Legs with non-pitting edema and chronic venous stasis
changes bilaterally. RLE with 2.0cm (L) x 1.0 cm (W) stable 
noted
on admission - secondary to traumatic injury per patient report
NEURO: CN 6 palsy of the right eye since aneurism repair w/ mild
proptosis of the right eye and hyperthesia of the right V1
distribution. CN II-XII otherwise intact. Strength ___ in all
extremities. Sensation intact in all extremities.
Skin: back with confluent erythema from neck to lower rib area
upper chest with large macular and excoriations.
ACCESS: PIV

 
Pertinent Results:
ADMISSION LABS
=============================
___ WBC: 13.4* RBC: 4.08 Hgb: 12.9 Hct: 40.5 MCV: 99* MCH:
31.6 MCHC: 31.9* RDW: 14.6 RDWSD: 54.4* Plt Ct: 229 
___ 01:44AM BLOOD Neuts: 67.5 Lymphs: ___ Monos: 5.9 Eos:
1.4 Baso: 0.2 Im ___: 0.4 AbsNeut: 9.06* AbsLymp: 3.30 AbsMono:
0.79 AbsEos: 0.19 AbsBaso: 0.03 
___ 01:44AM BLOOD Glucose: 81 UreaN: 12 Creat: 1.3* Na: 138
K: 4.8 Cl: 103 HCO3: 18* AnGap: 17 
___ 01:52AM BLOOD Type: ___ pO2: 87 pCO2: 32* pH: 7.43
calTCO2: 22 Base XS: -1 Comment: GREEN TOP 
___ 01:52AM BLOOD Lactate: 1.1 

IMAGING/STUDIES
================================
___ CXR: Increased opacity in the right lower lobe is
concerning for developing pneumonia. 

___ CTA CHEST: No evidence of pulmonary embolism or aortic
abnormality. Dilatation of the main pulmonary artery is similar
to the prior study, concerning for pulmonary hypertension. 
Consolidative in nodular opacities with perihilar and peripheral 

consolidation and surrounding ground-glass are most severe in 
the
right lower and upper lobe, with additional findings in the left
lower lobe. Findings are in close proximity to multiple mucus
impacted bronchi, and likely reflect a multifocal infectious
process. However, given the patient's history of 
malignancy in the appearance of the findings, recommend close
interval follow-up with repeat imaging after treatment to
document resolution. Moderate-severe central and peripheral
bilateral airway thickening.

MICROBIOLOGY
=================================
___ Blood cultures - pending
___ Flu swab - negative for flu A and flu B
___ RVP
___ Urine culture
___ MRSA Screen
___ Legionella Urinary Antigen
___ Fungal markers 

DISCHARGE LABS:

___ 05:30AM BLOOD WBC-6.5 RBC-4.00 Hgb-12.3 Hct-38.6 MCV-97 
MCH-30.8 MCHC-31.9* RDW-14.3 RDWSD-50.6* Plt ___
___ 05:30AM BLOOD Neuts-62.8 Lymphs-16.5* Monos-10.0 
Eos-9.7* Baso-0.2 Im ___ AbsNeut-4.08 AbsLymp-1.07* 
AbsMono-0.65 AbsEos-0.63* AbsBaso-0.01
___ 05:30AM BLOOD Glucose-89 UreaN-18 Creat-1.3* Na-142 
K-3.8 Cl-107 HCO3-22 AnGap-13
___ 05:30AM BLOOD ALT-10 AST-13 LD(LDH)-192 AlkPhos-92 
TotBili-0.2
___ 05:30AM BLOOD Albumin-3.4* Calcium-8.3* Phos-3.0 Mg-2.___ ___ year old female with history of
transformed diffuse large B cell lymphoma status post curative
intent with an autologous SCT with BEAM conditioning in ___
___s IFRT with noted treatment related MDS and status post
URD allogeneic transplant in ___ presenting with fevers,
headache and worsening URI symptoms, found to have radiographic
evidence of multifocal pneumonia.

ACUTE CONDITIONS
===========================

#MULTIFOCAL PNEUMONIA: CTA Chest obtained in the setting of
hypoxia showed consolidative in nodular opacities with perihilar
and peripheral consolidation and surrounding ground-glass most
severe in the right lower and upper lobe, with additional
findings in the left lower lobe. Findings were felt likely
multifocal PNA. Given her underlying
hypogammaglobulinemia and overall impaired immunity from prior
chemotherapies, we pursed CAP treatment with cefepime and
vancomycin plus levofloxacin for atypical coverage. 
- Hypoxia resolved as of ___. 
- bcx remain negative x 72 hrs, de-escalated to Levaquin ___, to 
complete 7d course of ABX total ___
-F/U RVP, urine Legionella, Strep pneumo Ag, fungal markers,
sputum culture, MRSA screen--NTD
- cont supportive DuonNebs, Flovent, Tessarlon & Guaifenisin, 
can
consider PFTs as outpatient once recovered from acute illness
 
#Rash: given timing most likely antibiotic-induced. Back could 
be
c/w Redman's but chest area has raised appearance that is
atypical. d/c vanco/cefepime as above and monitor. She does
have hx GVHD so if persists may need to pursue biopsy, f/u 
outpatient

___: stable. Cr 1.1-1.3 baseline. She is
likely dehydrated in the setting of poor PO intake. Of
note, she has had elevated Cr attributed to medication effect. 
-IVF PRN (received 1L ___
-encourage po intake on own

#Asthma: Stable, now on RA since ___. Exacerbated in the
setting of multifocal pneumonia. She continues on inhalers and
nebulizers. Monitor for respiratory decompensation.

CHRONIC/STABLE CONDITIONS
===================================

#RLE Wound: Secondary to a traumatic skin injury from a stick ~ 
6
weeks ago. Consulted wound nursing for evaluation and 
management,
see progress note ___. No apparent infection concerns on
admission. 
              
#MDS: Noted for rapid progression of pancytopenia particularly
anemia. Bone marrow biopsy with dysplasia of all cell lines with
noted cytogenetic abnormalities concerning for treatment related
MDS. ___ allogeneic transplant with URD with Flu/Bu/ATG
conditioning. D0 = ___. ABO compatible with donor. Had BM
biopsy at ~ D100 which showed no evidence for MDS and noted 100%
donor. Now, patient is exactly ___ years from her allogeneic
transplant on ___. Peripheral chimerism from ___ shows
100% donor by FISH. Remains in remission. 

Infection Prophylaxis
    PCP: ___ 
    VZV/HSV: Acyclovir
    Fungal: Off fluconazole
    CMV: Off Valganciclovir

#GVHD: Waxing and waning rashes followed closely by Dermatology.
Fungal rash in groin area now resolved. Lipodermatosclerosis on
lower legs. No other skin thickening. No other evidence of GVHD
with prior skin and ? eye involvement. Steroids tapered. Had
Endoscopy and colonoscopy which did not show evidence of GVHD.
Also, with increased dryness of scalp and flaking of scalp. Had
PFTs on ___ which are stable to improved (FVC 86%; FEV1
87%; DLCO 105%). Tapered off Cyclosporine and CellCept.

GVHD Treatment
-Continue Prednisone 5 mg daily 
-Continue triamcinolone cream BID PRN
-Continue hydrocortisone/nystatin TP to groin area PRN        
-Restasis for dry eyes
    
#Lower Extremity DVTs: Had been on Xarelto 20mg daily prior to
transplant for previous DVTs. This was switched to Lovenox with
concern for drug interactions. Has filter in place now with new
deep venous thrombosis involving the left posterior tibial and
right popliteal veins. Continues on Xarelto as above.

#CMV Viremia: Noted for low level CMV VL (<2.1). Had CMV viremia
in past and was previously on IV ganciclovir and then
Valganciclovir. CMV VL negative ___, repeat ___ negative.  


#Arthritis of thumbs/Probable tendon tear of left thumb: Has had
steroid injections to thumbs in past. ___ MD at ___ is following. Plan is to hold on surgery due to concern
for complicated recovery and also able to do any activities she
desires.

#Pulmonary Hypertension: Evaluated by Dr. ___ in past and no
contraindication of proceeding with transplant. TTE ___ 
showed
normal biventricular cavity sizes with mild global left
ventricular hypokinesis. Mild mitral regurgitation with normal
valve morphology. Trace aortic regurgitation with normal valve
morphology. 

#Lymphoma/CLL/Disease Status: Been in remission with last CT
scans without evidence of lymphoma/adenopathy. Has history of 
CLL
as well. She had no evidence of this on prior BM biopsy.

#Osteoarthritis:                                         
#Cervical radiculopathy:
#Sciatica:
Chronic left lower back pain with sciatica. Lumbar spine MRI 
with
and without contrast with no significant changes but noted
significant disc disease and degenerative changes. Monitor for
exacerbation while inpatient. 

#History of Cerebral Aneurysm: Noted on MRA with small R 
internal
carotid cavernous sinus aneurysm. Coil placed in the aneurysm
(___). She continues on home Neurontin 400mg BID.

#CVID: Receives IVIG every 1 - 2 months to keep IGG > 500. Her
last infusion was ___, added on IgG level and consider giving
IVIG if level <600 in the setting of active infection. 

#GERD: No acute exacerbation. Continues Omeprazole 20mg daily.
                                       
#Obstructive Sleep Apnea: Using CPAP machine more regularly and
sleeping better. RT consulted on admission. 

#Early Macular Degeneration: On Preservision but not available
in-house so did not order on admission.  

#Mood Disorder: Continues on Effexor 25mg daily. Living with
daughter in her new home which is less stressful and has better
supports. Followed by SW. 

CORE MEASURES
=========================
#FEN: Regular diet, replete electrolytes PRN per oncology 
sliding
scales
#PPX: Xarelto as above
#ACCESS: PIV
#HCP/CONTACT: ___ (daughter) ___
#CODE STATUS: Full code (confirmed)

DISPOSITION: home f/u ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q12H 
2. Fluticasone Propionate 110mcg 2 PUFF IH BID:PRN 
cough/wheezing 
3. FoLIC Acid 1.6 mg PO DAILY 
4. Gabapentin 400 mg PO BID 
5. Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN 
wheezing/shortness of breath 
6. Nystatin Cream 1 Appl TP BID fungal rash 
7. Omeprazole 20 mg PO DAILY 
8. PredniSONE 5 mg PO DAILY 
9. Rivaroxaban 20 mg PO DAILY 
10. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
11. Venlafaxine 25 mg PO DAILY 
12. Vitamin D ___ UNIT PO DAILY 
13. Cephalexin ___ mg PO ONCE 
14. Hydrocortisone Cream 1% 1 Appl TP BID 
15. Restasis 0.05 % ophthalmic (eye) BID 
16. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID:PRN 
unspecified 
17. Ondansetron (ondansetron HCl) 4 mg oral Q8H 
18. Albuterol Inhaler ___ PUFF IH Q4H:PRN cough, wheezing, SOB 
19. Betamethasone Dipro 0.05% Oint 1 Appl TP BID:PRN rash 
20. econazole 1 % topical BID groin, thighs 
21. Ketoconazole Shampoo 1 Appl TP ___ TIMES PER WEEK AS NEEDED 
22. PreserVision AREDS (vitamins  A,C,E-zinc-copper) 
___ unit-mg-unit oral BID 
23. nystatin 100,000 unit/gram topical BID rash 
24. fluocinonide 1 Appl TP 2X/WEEK 
25. HYDROcodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN 
Pain - Moderate 

 
Discharge Medications:
1.  Benzonatate 100 mg PO TID:PRN Cough   
2.  GuaiFENesin ER 600 mg PO Q12H:PRN cough  
3.  LevoFLOXacin 750 mg PO ONCE Duration: 1 Dose 
Continue until ___  
4.  Sarna Lotion 1 Appl TP QID:PRN itch  
5.  ___ ___ unit/gram topical BID:PRN rash  
6.  Acyclovir 400 mg PO Q12H  
7.  Albuterol Inhaler ___ PUFF IH Q4H:PRN cough, wheezing, SOB  
8.  Betamethasone Dipro 0.05% Oint 1 Appl TP BID:PRN rash  
9.  Cephalexin ___ mg PO ONCE  
10.  econazole 1 % topical BID groin, thighs  
11.  fluocinonide 1 Appl TP 2X/WEEK  
12.  Fluticasone Propionate 110mcg 2 PUFF IH BID:PRN 
cough/wheezing  
13.  FoLIC Acid 1.6 mg PO DAILY  
14.  Gabapentin 400 mg PO BID  
15.  HYDROcodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN 
Pain - Moderate  
16.  Hydrocortisone Cream 1% 1 Appl TP BID  
17.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN 
wheezing/shortness of breath  
18.  Ketoconazole Shampoo 1 Appl TP ___ TIMES PER WEEK AS NEEDED 
 
19.  Nystatin Cream 1 Appl TP BID fungal rash  
20.  Omeprazole 20 mg PO DAILY  
21.  Ondansetron (ondansetron HCl) 4 mg oral Q8H  
22.  PredniSONE 5 mg PO DAILY  
23.  PreserVision AREDS (vitamins  A,C,E-zinc-copper) 
___ unit-mg-unit oral BID  
24.  Restasis 0.05 % ophthalmic (eye) BID  
25.  Rivaroxaban 20 mg PO DAILY  
26.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
27.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID:PRN 
unspecified  
28.  Venlafaxine 25 mg PO DAILY  
29.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home with Service
 
Discharge Diagnosis:
Primary Diagnosis
=================
1) Community Acquired Pneumonia 
2) CVID 
3) MDS ___ allogenic stem cell transplant 

Secondary Diagnosis
===================
1) GERD 
2) OSA 
3) OA 
4) Asthma 
5) HTN
6) Mood disorder 
7) RLE DVT

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted with upper respiratory symptoms, found to have 
pnueumonia. We treated you with intravenous antibiotics and your 
symptoms improved. You are now safe to be discharged home. 
Please continue your medications as prescribed. It was a 
pleasure taking care of you.
 
Followup Instructions:
___